US09260397B2
1-(4-methoxyphenyl)-3-propyl imidazolium bromide
According to the general synthesis procedure; 4.48 mmol (0.700 g) 1-(4-methoxyphenyl)imidazole and 4.93 mmol (0.606 g, 0.45 ml) 1-bromopropane are dissolved in 5 ml THF and heated for 5 h to 80° C.

reactant | 1-(4-methoxyphenyl)imidazole | 4.48 mmol, 0.700 g | COC1=CC=C(C=C1)N1C=NC=C1 | C10H10N2O
reactant | 1-bromopropane | 4.93 mmol, 0.45 ml, 0.606 g | BrCCC | C3H7Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(4-methoxyphenyl)-3-propyl imidazolium bromide | [Br-].COC1=CC=C(C=C1)[N+]1=CN(C=C1)CCC | InChI=1S/C13H17N2O.BrH/c1-3-8-14-9-10-15(11-14)12-4-6-13(16-2)7-5-12;/h4-7,9-11H,3,8H2,1-2H3;1H/q+1;/p-1
